* C:\Users\gwert\_itmo\электротехника\лабы\lab3\2_9.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 SINE(0 15.556 792.265 0 0 30)
R1 N001 N002 29
L1 N001 0 21.422m Rser=15
C1 N002 0 23.974µ
.tran 0 20m
.meas TRAN t_i FIND time WHEN I(V1)=0 FALL=3
.meas TRAN t_u1 FIND time WHEN V(n001)=0 RISE=3
.meas TRAN t_u2 FIND time WHEN V(n001)=0 FALL=4
.meas i_max max I(V1)
.meas i1_max min I(L1)
.meas i2_max max I(R1)
.meas dt PARAM t_i-t_u2
.meas T PARAM t_u1-t_u2
.meas phi PARAM 180*dt/T
.meas TRAN i_rms RMS -I(V1)
.meas TRAN i1_rms RMS -I(L1)
.meas TRAN i2_rms RMS -I(R1)
.backanno
.end
