* C:\Users\gwert\_itmo\электротехника\лабы\lab4\Draft1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 SINE(0 63.6396 50 0 0 0)
V2 N004 0 SINE(0 63.6396 50 0 0 -120)
V3 N006 0 SINE(0 63.6396 50 0 0 120)
R1 N002 N001 126
R2 N005 N004 126
R3 N007 N006 126
L1 N002 N003 0.354 Rser=0
L2 N005 N003 0.354 Rser=0
L3 N007 N003 0.354 Rser=0
R4 N003 0 10000000
.tran 0 4 0 0.01m
.backanno
.end
