* C:\Users\gwert\_itmo\электротехника\лабы\lab2\схемы\RLC.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 PULSE(-6 6 0 0.001m 0.001m 250m 500m)
R1 N002 N001 60
C1 0 N003 100µ
L1 N002 N003 1.44 Rser=0
.tran 500m
.backanno
.end
